US08217027B2
A solution of lithium aluminum hydride (2.70 ml, 5.40 mmol) (Aldrich) was added carefully to THF (17.99 ml) under nitrogen. 3-amino-5-methyl-5-(4-octylphenyl)tetrahydrofuran-3-carboxylic acid (0.6 g, 1.799 mmol) was added in small portions causing vigorous bubbling. The reaction stirred for about 2 h. TLC in 10% MeOH in methylene chloride showed (Hannessian's stain visualization) reaction complete. The reaction was quenched by addition of water (200 uL) and the reaction stirred about 30 min. 10% NaOH (0.6 mL) was added and the reaction stirred about 30 min. Finally, water (200 uL) was added and the reaction stirred about 30 min. The resulting solid was collected by vacuum filtration and washed with ether. The filtrate was concentrated to a colorless oil. The residue was purified by flash column chromatography (40 g Redi-Sep) eluting with 10-20% methanol in methylene chloride and the product fractions combined. Solvents were removed under reduced pressure. The residue was redissolved in methylene chloride and filtered through a syringe filter into a vial and washed through with methylene chloride. Solvent was removed under reduced pressure to provide (3-amino-5-methyl-5-(4-octylphenyl)tetrahydrofuran-3-yl)methanol (0.192 g, 0.601 mmol, 33.4% yield) as a colorless oil that solidified on standing to a white solid:

reactant | lithium aluminum hydride | 5.40 mmol, 2.70 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 17.99 ml | C1CCOC1 | C4H8O
reactant | 3-amino-5-methyl-5-(4-octylphenyl)tetrahydrofuran-3-carboxylic acid | 1.799 mmol, 0.6 g | NC1(COC(C1)(C1=CC=C(C=C1)CCCCCCCC)C)C(=O)O | C20H31NO3
solvent | MeOH | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (3-amino-5-methyl-5-(4-octylphenyl)tetrahydrofuran-3-yl)methanol | 0.601 mmol, 0.192 g, 33.4% yield | NC1(COC(C1)(C1=CC=C(C=C1)CCCCCCCC)C)CO | C20H33NO2
